US04046898
A solution of 6-(2,6-dichloro-3-nitrophenyl)-2,3,6,7-tetrahydro-5H-pyrrolo[1,2-a]imidazole hydrobromide (2.3 g.) in water (70 ml.) is shaken with hydrogen in the presence of a Raney nickel catalyst (0.5 g.) at laboratory temperature and atmospheric pressure until uptake of hydrogen ceases. The mixture is filtered, the filtrate is evaporated to dryness and the residue is dissolved in hot ethanol (200 ml.). The solution is concentrated to 20 ml. by distillation and then cooled and filtered. There is thus obtained as solid residue 6-(3-amino-2,6-dichlorophenyl)-2,3,6,7-tetrahydro-5-H-pyrrolo-[1,2-a]imidazole hydrobromide, m.p. 275°-277° C.

reactant | 6-(2,6-dichloro-3-nitrophenyl)-2,3,6,7-tetrahydro-5H-pyrrolo[1,2-a]imidazole hydrobromide | 2.3 g | Br.ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)C1CC=2N(CCN2)C1
reactant | hydrogen | [H][H] | H2
solvent | water | 70 ml | O | H2O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 6-(3-amino-2,6-dichlorophenyl)-2,3,6,7-tetrahydro-5-H-pyrrolo-[1,2-a]imidazole hydrobromide | Br.NC=1C(=C(C(=CC1)Cl)C1CC=2N(CCN2)C1)Cl | InChI=1S/C12H13Cl2N3.BrH/c13-8-1-2-9(15)12(14)11(8)7-5-10-16-3-4-17(10)6-7;/h1-2,7H,3-6,15H2;1H
